US06713474B2
A mixture of 4-[4-amino-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl]cyclohexanone (1.00 g, 2.51 mmol) and (R)-(+)-3-pyrrolidinol (0.62 mL, 7.5 mmol) in 1,2-dichloroethane (50 mL) was stirred at ambient temperature under an atmosphere of nitrogen for 1.5 hours. Sodium triacetoxyborohydride (0.691 g, 3.26 mmol) was added and the mixture stirred at ambient temperature for 22 hours. Water (50 mL) and sodium bicarbonate (1.34 g, 16.1 mmol) were added and the mixture was stirred for 2 hours. The reaction mixture was transferred to a separatory funnel and the organic layer was separated, dried over magnesium sulfate, filtered, and the solvent removed under reduced pressure to yield a yellow-brown solid. The cis isomer was purified by flash chromatography on silica gel (1 L 5% MeOH in CH2Cl2, then 2 L 10% MeOH in CH2Cl2, 1 L 20% MeOH in CH2Cl2, and 1 L 40% MeOH in CH2Cl2) to yield cis-(3R)-1-{4-[4-amino-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl]cyclohexyl}tetrahydro-1H-3-pyrrolol as a pale yellow oil (0.529 g, 1.12 mmol). The cis-(3R)-1-{4-[4-Amino-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl]cyclohexyl}tetrahydro-1H-3-pyrrolol (0.464 g, 0.988 mmol) was dissolved in warm ethanol (5 mL) and added to a solution of maleic acid (0.344 g, 2.96 mmol) in ethanol (5 mL). The mixture was cooled to ambient temperature then the solid was collected by filtration and dried to give cis-(3R)-1-{4-[4-amino-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl]cyclohexyl}tetrahydro-1H-3-pyrrolol dimaleate salt (0.549 g) as a pale yellow solid: 1H NMR (d6 DMSO, 400 MHz): δ H 8.22(1H, s), 7.41-7.50 (5H, m), 7.08-7.19(5H, m), 6.49(2H, bs), 6.13(4H, s), 4.85(1H, bs), 4.49(1H, bs), 3.37-3.68(5H, m), 1.92-2.18(11H, m); HPLC: (Hypersil HS C18, 5 μm, 254 nm, 250×4.6 mm; 25-100% acetonitrile-0.1N ammonium acetate over 10 min, 1 ml/min) tr=7.167 min.

reactant | 4-[4-amino-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl]cyclohexanone | 2.51 mmol, 1.00 g | NC=1C2=C(N=CN1)N(C=C2C2=CC=C(C=C2)OC2=CC=CC=C2)C2CCC(CC2)=O | C24H22N4O2
reactant | (R)-(+)-3-pyrrolidinol | 7.5 mmol, 0.62 mL | N1C[C@@H](CC1)O | C4H9NO
reactant | Sodium triacetoxyborohydride | 3.26 mmol, 0.691 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium bicarbonate | 16.1 mmol, 1.34 g | C([O-])(O)=O.[Na+]
solvent | 1,2-dichloroethane | 50 mL | ClCCCl | C2H4Cl2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | MeOH | 1 L | CO | CH4O
solvent | MeOH | 1 L | CO | CH4O
solvent | MeOH | 2 L | CO | CH4O
solvent | Water | 50 mL | O | H2O
product | cis-(3R)-1-{4-[4-amino-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl]cyclohexyl}tetrahydro-1H-3-pyrrolol | 1.12 mmol, 0.529 g | NC=1C2=C(N=CN1)N(C=C2C2=CC=C(C=C2)OC2=CC=CC=C2)[C@H]2CC[C@H](CC2)N2C[C@@H](CC2)O | C28H31N5O2
